US05519034
A mixture of 7-benzyloxy-1-[1-(2-chlorophenyl)cyclopropyl]-6-methoxy-1,2,3,4-tetrahydroisoquinoline hydrobromide (5 g prepared as described in Example RC14), methanol (100 ml) and 37% aqueous formaldehyde solution (5 ml) was cooled to 10° C. Sodium borohyride (2.5 g) was added and the mixture stirred at ambient temperature for 2 hours. The methanol was evaporated in vacuo and the residue partitioned between dilute aqueous sodium hydroxide solution (100 ml) and ether (2×100 ml). The organic layer yielded an oil which was dissolved in methanol (25 ml) and concentrated hydrochloric acid (25 ml) and heated under reflux for 2 hours. The solvent was removed in vacuo and the residue dissolved in hot ethanol, decolorised, filtered and the solvent evaporated. The resulting solid was washed in ether, dried and then partitioned between ethyl acetate and concentrated aqueous ammonia solution. The organic layer yielded an oil which was dissolved in methanol. 48% Aqueous hydrobromic acid was added and the mixture heated under reflux for 2 hours. The solvents were removed by evaporation to yield a solid which was recrystallised from ethanol. The solid residue was washed with ether and dried in vacuo at 50° C. to give 1-[1-(2-chlorophenyl)cyclopropyl]-7-hydroxy-6-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide, m.p. 150°-153° C. Yield 2.95 g.

reactant | 7-benzyloxy-1-[1-(2-chlorophenyl)cyclopropyl]-6-methoxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | 5 g | Br.C(C1=CC=CC=C1)OC1=C(C=C2CCNC(C2=C1)C1(CC1)C1=C(C=CC=C1)Cl)OC
reactant | formaldehyde | 5 ml | C=O | CH2O
reactant | Sodium | [Na] | Na
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | hydrobromic acid | Br | BrH
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 1-[1-(2-chlorophenyl)cyclopropyl]-7-hydroxy-6-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.ClC1=C(C=CC=C1)C1(CC1)C1N(CCC2=CC(=C(C=C12)O)OC)C | InChI=1S/C20H22ClNO2.BrH/c1-22-10-7-13-11-18(24-2)17(23)12-14(13)19(22)20(8-9-20)15-5-3-4-6-16(15)21;/h3-6,11-12,19,23H,7-10H2,1-2H3;1H
